US08877742B2
1-methyl-3-(1-methylindolin-6-yl)-4-nitro-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 3-iodo-1-methyl-4-nitro-1H-pyrrolo[2,3-b]pyridine (D17) (6.2 g, 20.46 mmol) in ACN (108 mL) was added 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline (7.95 g, 30.7 mmol), bis(triphenylphosphine)palladium(II) chloride (1.436 g, 2.046 mmol) and 2M sodium carbonate aq. solution (108 mL, 217 mmol). The resulting mixture was heated at 65° C. for ca. 1 hour. After being cooled to RT, the reaction mixture was diluted with DCM (150 mL) and water (200 mL). The organic phase was separated and the aqueous phase was further extracted with DCM (80 mL×4). The combined organics were dried and concentrated. The residue was purified by chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in cyclohexane to give an impure fraction which was re-purified by chromatography on silica, eluting with a gradient of 0-20% ethyl acetate in DCM to give the title compound (3.14 g). LCMS (A): m/z (M+H)+ 309, C17H16N4O2 requires 308 (acidic).

reactant | 3-iodo-1-methyl-4-nitro-1H-pyrrolo[2,3-b]pyridine | 20.46 mmol, 6.2 g | IC1=CN(C2=NC=CC(=C21)[N+](=O)[O-])C | C8H6IN3O2
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indoline | 30.7 mmol, 7.95 g | CN1CCC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H22BNO2
reactant | sodium carbonate | 217 mmol, 2M, 108 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ACN | 108 mL | C(C)#N | C2H3N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.046 mmol, 1.436 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-methyl-3-(1-methylindolin-6-yl)-4-nitro-1H-pyrrolo[2,3-b]pyridine | 3.14 g | CN1C=C(C=2C1=NC=CC2[N+](=O)[O-])C2=CC=C1CCN(C1=C2)C | C17H16N4O2
